US06967196B1
To a solution of 4-chloro-N-(2,5-dichlorophenyl)-N-[(R)-1-methyl-3-azidopropyl]benzenesulfonamide (0.941 g, 2.16 mmol) in THF (21 mL) was added lithium aluminum hydride (4.33 mL, 1 M in THF) at 0° C. under nitrogen atmosphere. The resulting mixture was allowed to stir at 0° C. for 1 h and subsequently treated by successive dropwise addition of 0.165 mL of water, 0.165 mL of 15% sodium hydroxide solution, and 0.493 mL of water. The mixture was filtered and concentrated under reduced pressure. Silica gel chromatography (3:10 ethyl acetate:hexanes) of the concentrate afforded 0.748 g of 4-chloro-N-2,5-dichlorophenyl)-N-[(R)-1-methyl-3-aminopropyl]benzenesulfonamide as a light brown oil in 85% yield.

reactant | 4-chloro-N-(2,5-dichlorophenyl)-N-[(R)-1-methyl-3-azidopropyl]benzenesulfonamide | 2.16 mmol, 0.941 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCN=[N+]=[N-])C)C1=C(C=CC(=C1)Cl)Cl | C16H15Cl3N4O2S
reactant | lithium aluminum hydride | 1 M, 4.33 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.165 mL | O | H2O
reactant | sodium hydroxide | 0.165 mL | [OH-].[Na+]
reactant | water | 0.493 mL | O | H2O
solvent | THF | 21 mL | C1CCOC1 | C4H8O
product | N-[(R)-1-methyl-3-aminopropyl]benzenesulfonamide | 85% yield | C[C@H](CCN)NS(=O)(=O)C1=CC=CC=C1 | C10H16N2O2S
